US05605914
By following the procedure of Example 46 utilizing 3-phthalimido-3-(3,4'-dimethoxyphenyl)propionic acid and amylamine (1.0 equiv) to afford 2.15 g (84%) of crude product. The crude product was dissolved in 150 mL of ethyl acetate and then 50 mL of ether was added and the mixture stirred for 1 hour. The resulting slurry was filtered and the solid dried in vacuo to afford 1.28 g (50%) yield of 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionic amylamide as a white powder: mp 140.5°-142.1° C.; 1H NMR (DMSO-d6, 250 MHz), d 8.05 (t, 1 H, J=5 Hz), 7.85 (m, 4 H), 7.03 (br s, 1 H), 6.90 (m, 3 H), 5.68 (t, 1 H, J=8 Hz), 3.73 (s, 3 H), 3.71 (s, 3 H), 3.19 (d, 2 H, J=8 Hz), 2.8-3.1 (m, 2 H), 0.9-1.3 (m, 6 H), 0.74 (m, 3 H); 13C NMR (DMSO-d6) δ 168.8, 167.7, 148.5, 148.3, 134.5, 131.5, 131.2, 123.1, 119.5, 111.6, 111.1, 55.4, 50.6, 38.2, 37.4, 28.7, 28.3, 21.7, 13.7; Anal. Calcd. for C24H28N2O5. Theoretical: C, 67.9; H, 6.65; N, 6.60. Found: C, 67.84; H, 6.70; N, 6.57.

reactant | 3-phthalimido-3-(3,4'-dimethoxyphenyl)propionic acid | C1(C=2C(C(N1C(CC(=O)O)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C19H17NO6
reactant | amylamine | 1.0 equiv | C(CCCC)N | C5H13N
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionic amylamide | C(CCCC)NC(CC(C1=CC(=C(C=C1)OC)OC)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C24H28N2O5
